US07989628B2
5-Nitro-2-chloroquinoline (CAS 13067-94-2,3 g, 14 mmol) and 2-methoxy-benzylamine (4.2 g, 31 mmol) were stirred in a sealed tube at 120° C. overnight. The reaction mixture was purified by flash chromatography on silica gel (heptane/ethyl acetate 100:0->30:70 gradient). (2-Methoxy-benzyl)-(5-nitro-quinolin-2-yl)-amine was obtained as a yellow solid (2.2 g, 50%), MS: m/e=310.1 (M+H+).

reactant | 5-Nitro-2-chloroquinoline | 14 mmol, 3 g | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 2-methoxy-benzylamine | 31 mmol, 4.2 g | COC1=C(CN)C=CC=C1 | C8H11NO
product | (2-Methoxy-benzyl)-(5-nitro-quinolin-2-yl)-amine | COC1=C(CNC2=NC3=CC=CC(=C3C=C2)[N+](=O)[O-])C=CC=C1 | C17H15N3O3
